US05753664
2-[4-(4-Chlorobenzoyl)benzyl]thio-3,5,6-trimethylthieno[2,3-d]pyrimidin-4(3H)-one
To a solution of 2-mercapto-3,5,6-trimethylthieno-[2,3-d]pyrimidin-4(3H)-one (1.13 g) and sodium hydroxide (205 mg) in 50% methanol (16 ml)-DMF (4 ml) was added 4-(4-chlorobenzoyl)benzyl bromide (1.69 g) and the mixture was stirred at room temperature for 1 hour. This reaction mixture was poured in water and the resulting crystals were collected by filtration, rinsed with water, and recrystallized from ethyl acetate to provide the title compound as colorless solid (1.425 g).

reactant | 2-mercapto-3,5,6-trimethylthieno-[2,3-d]pyrimidin-4(3H)-one | 1.13 g | SC=1N(C(C2=C(N1)SC(=C2C)C)=O)C | C9H10N2OS2
reactant | sodium hydroxide | 205 mg | [OH-].[Na+]
reactant | DMF | 4 ml | CN(C)C=O | C3H7NO
reactant | 4-(4-chlorobenzoyl)benzyl bromide | 1.69 g | ClC1=CC=C(C(=O)C2=CC=C(CBr)C=C2)C=C1 | C14H10BrClO
solvent | methanol | 16 ml | CO | CH4O
solvent | water | O | H2O
product | 2-[4-(4-Chlorobenzoyl)benzyl]thio-3,5,6-trimethylthieno[2,3-d]pyrimidin-4(3H)-one | 1.425 g | ClC1=CC=C(C(=O)C2=CC=C(CSC=3N(C(C4=C(N3)SC(=C4C)C)=O)C)C=C2)C=C1 | C23H19ClN2O2S2
